US05053509
A solution of ethyl 2-(2,7-dichloro-6-fluoro-3-quinolinecarbonyl)-3-(dimethylamino)acrylate (20.6 g) and cyclopropylamine (6 g) in trichloromethane (100 cc) is stirred at a temperature in the region of 20° C. for 24 hours. The reaction mixture is concentrated under reduced pressure (2.7 kPa) at 50° C. The residue is taken up with ethanol (180 Zcc) and DBU (10 g) and the solution obtained heated to a temperature in the region of 78° C. for 4 hours. After cooling to a temperature in the region of 20° C., the precipitate obtained is drained and washed with ethanol (2×60 cc). 8-Chloro-1-cyclopropyl-3-ethoxycarbonyl-7-fluoro-4-oxo-1,4-di hydrobenzo[b][1,8]naphthyridine (13.65 g) is obtained in the form of a pale yellow solid, m.p. 256° C., which is used without further purification for the subsequent steps.

reactant | ethyl 2-(2,7-dichloro-6-fluoro-3-quinolinecarbonyl)-3-(dimethylamino)acrylate | 20.6 g | ClC1=NC2=CC(=C(C=C2C=C1C(=O)C(C(=O)OCC)=CN(C)C)F)Cl | C17H15Cl2FN2O3
reactant | cyclopropylamine | 6 g | C1(CC1)N | C3H7N
solvent | trichloromethane | 100 cc | ClC(Cl)Cl | CHCl3
product | 8-Chloro-1-cyclopropyl-3-ethoxycarbonyl-7-fluoro-4-oxo-1,4-di hydrobenzo[b][1,8]naphthyridine | 13.65 g | ClC=1C(=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)OCC)C2CC2)C1)F | C18H14ClFN2O3
